US08604061B2
d) (S)-4-[2-(6-Trifluoromethyl-pyridin-2-yl)-ethyl]-4,5-dihydro-oxazol-2-ylamine
To a stirred mixture of (S)-2-amino-4-(6-trifluoromethyl-pyridin-2-yl)-butan-1-ol (0.224 g, 0.96 mmol) and K2CO3 (0.198 g, 1.43 mmol) in THF (7 ml) under an argon atmosphere was added a solution of cyanogen bromide (0.152 g, 1.05 mmol) in THF (1 ml). The mixture was stirred for 18 hours, then water and ethyl acetate were added. The organic layer was washed with water, dried over MgSO4 and evaporated over Isolute® Flash-NH2 silicagel. Chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: ethyl acetate/MeOH=90:10) yielded the title compound as off-white solid, (0.096 g, 39%); MS (ISP): 260.0 ((M+H)+.).

reactant | (S)-2-amino-4-(6-trifluoromethyl-pyridin-2-yl)-butan-1-ol | 0.96 mmol, 0.224 g | N[C@H](CO)CCC1=NC(=CC=C1)C(F)(F)F | C10H13F3N2O
reactant | K2CO3 | 1.43 mmol, 0.198 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyanogen bromide | 1.05 mmol, 0.152 g | N#CBr | CBrN
reactant | water | O | H2O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-4-[2-(6-Trifluoromethyl-pyridin-2-yl)-ethyl]-4,5-dihydro-oxazol-2-ylamine | 0.096 g, 39% | FC(C1=CC=CC(=N1)CC[C@@H]1N=C(OC1)N)(F)F | C11H12F3N3O
